US06046169
Cbz-D-Arg(Cbz)2-Gly-OH is prepared according to Example 1 by coupling the N-hydroxysuccinimide active ester of Cbz-D-Arg(Cbz)2-OH to glycine in a yield of 87%.

reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | Cbz-D-Arg(Cbz)2-OH | N([C@H](CCCNC(N(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C30H32N4O8
reactant | glycine | NCC(=O)O | C2H5NO2
product | Cbz-D-Arg(Cbz)2-Gly-OH | yield of 87% | N([C@H](CCCNC(N(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=N)C(=O)NCC(=O)O)C(=O)OCC1=CC=CC=C1 | C32H35N5O9
